US08350044B2
Preparation of di(tert-butyl) 2-bromo-1,3-thiazol-5-ylimidodicarbonate
To a tetrahydrofuran (THF) (200 mL) solution of (2-bromo-thiazol-5-yl)-carbamic acid tert-butyl ester (19.8 g, 70.9 mmol) at 0° C. (ice bath) was added NaH (3.12 g, 78 mmol, 60% dispersion in mineral oil) in one portion. Gas evolution was observed. The reaction was stirred for 30 minutes. (Boc)2O (17.0 g, 78 mmol) was added in one portion. The reaction was stirred for 5 minutes. The reaction vessel was pulled from the cooling bath and the reaction allowed to stir for 30 more minutes. Water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous layer was extracted ethyl acetate (2×). The combined organic layers were dried over MgSO4, filtered, and concentrated. Silica gel column chromatography (20 to 50% ethyl acetate/hexanes) afforded the final product as a white solid (25.0 g, 93% yield): mp 87-89° C.; 1H NMR (300 MHz, CDCl3) δ 7.24 (s, 1H), 1.48 (s, 18H); ESIMS m/z 379, 381 (M+1).

reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | (2-bromo-thiazol-5-yl)-carbamic acid tert-butyl ester | 70.9 mmol, 19.8 g | C(C)(C)(C)OC(NC1=CN=C(S1)Br)=O | C8H11BrN2O2S
reactant | NaH | 78 mmol, 3.12 g | [H-].[Na+]
reactant | (Boc)2O | 78 mmol, 17.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | di(tert-butyl) 2-bromo-1,3-thiazol-5-ylimidodicarbonate | 25.0 g, 93% yield | BrC=1SC(=CN1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C13H19BrN2O4S
